US08471005B2
[4-Chloro-3-((R)-1-pyrrolidin-2-ylmethoxy)-phenyl]-{7-[3-(propane-2-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl}-amine
This example was prepared by using (R)-2-(5-Amino-2-chloro-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (J. Med. Chem. 2007, 50, 4353) and 7-[3-(Propane-2-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ol as described in Example 1255c followed by deprotection as described in Example 1223. 1H-NMR (DMSO) δ 9.7 (s, 1H), 9.5 (brs, 1H), 9 (s, 1H), 8.9 (brs, 1H), 8.5 (s, 1H), 8.4 (d, (d, J=7.5 Hz, 1H), 7.8 (m, 2H), 7.5 (d, J=8.7 Hz, 1H), 7.4 (m, 2H), 7.3 (d, J=4.8 Hz, 1H), 7 (d, J=4.8 Hz, 1H), 4.1 (m, 1H), 4.0 (m, 1H), 3.0 (brs, 1H), 3.5 (m, 2H), 3.2 (m, 2H), 2.0 (m, 2H), 1.9 (m, 1H), 1.7 (m, 1H), 1.1 (d, J=6.5 Hz, 6H); LC/MS (ESI+): 526 (M+H).

reactant | (R)-2-(5-Amino-2-chloro-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=C(C=CC(=C1)N)Cl | C16H23ClN2O3
reactant | 7-[3-(Propane-2-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ol | CC(C)S(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)O | C15H15N3O3S
product | [4-Chloro-3-((R)-1-pyrrolidin-2-ylmethoxy)-phenyl]-{7-[3-(propane-2-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl}-amine | ClC1=C(C=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=CC(=CC=C2)S(=O)(=O)C(C)C)OC[C@@H]2NCCC2 | C26H28ClN5O3S
